US08383631B2
3-amino-1-[{4-(4-methoxyphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 10)
A target compound (154.9 mg, 0.317 mmol, 76.9%) was yielded as white solid the same manner as in Example 1 by reacting 3-amino-5,6-dihydro-6-N-(p-tolyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one (100 mg, 0.412 mmol) with potassium carbonate (85.4 mg, 0.618 mmol) and 3-chloro-1-{4-(4-methoxyphenyl)piperazin-1-yl}propan-1-one (128.1 mg, 0.453 mmol).

reactant | 3-amino-5,6-dihydro-6-N-(p-tolyl)-1H-pyrazolo[3,4-c]pyridin-7(4H)-one | 0.412 mmol, 100 mg | NC1=NNC=2C(N(CCC21)C2=CC=C(C=C2)C)=O | C13H14N4O
reactant | potassium carbonate | 0.618 mmol, 85.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-{4-(4-methoxyphenyl)piperazin-1-yl}propan-1-one | 0.453 mmol, 128.1 mg | ClCCC(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C14H19ClN2O2
product | 3-amino-1-[{4-(4-methoxyphenyl)piperazin-1-yl}propanoyl]-6-N-(p-tolyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)C)=O)C(CCN2CCN(CC2)C2=CC=C(C=C2)OC)=O | C27H32N6O3
